US05362906
Step 1: Dimethyl [1-hydroxy-(E,E)-3,7,11-trimethyl-2,6,10-dodecatrienyl]phosphonate
To a stirred solution of farnesal (245 mg, 1.11 mmol) in acetonitrile (1.1 ml) under argon at room temperature (r.t), was added triethylamine (0.31 ml, 2.22 mmol) and dimethyl phosphite (0.153 ml, 1.67 mmol) and the resulting mixture stirred at r.t. for 24 hr. The reaction mixture was concentrated in vacuo, the resulting residue was chromatographed over silica gel eluted with ethyl acetate to afford the title compound as a colorless oil: NMR (CDCl3) δ 1.60 (6H, s), 1.68 (3H, s), 1.71 (3H, d, J=3.1 Hz), 1.80-2.30 (9H, m), 3.80 (6H, m), 4.69 (1H, dt, J=9 and 5.4 Hz), 5.00-5.20 (2H, m), 5.34 (1H, m).

reactant | farnesal | 1.11 mmol, 245 mg | CC(=CCC/C(=C/CC/C(=C/C=O)/C)/C)C | C15H24O
reactant | triethylamine | 2.22 mmol, 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | dimethyl phosphite | 1.67 mmol, 0.153 ml | P(OC)(OC)[O-]
solvent | acetonitrile | 1.1 ml | C(C)#N | C2H3N
product | Dimethyl [1-hydroxy-(E,E)-3,7,11-trimethyl-2,6,10-dodecatrienyl]phosphonate | OC(\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(OC)(OC)=O | C17H31O4P
